US04501605
Sodium hydride (0.12 g) was added to a stirred solution of acetaldehyde 5-t-butyl-1,3,4-thiadiazolyl hydrazone (0.99 g) in dry toluene (25 ml), and the mixture was stirred at room temperature for 15 minutes. 2-Methylaminocarbonyloxyimino-2-phenylacetonitrile (1.01 g) was added and the mixture was stirred for a further 2 hours and poured into water (20 ml). The organic phase was separated and dried over magnesium sulphate. The drying agent was filtered off and the toluene evaporated to give a yellow oil, purified by chromatography to give acetaldehyde 4-methyl-2-(5-t-butyl-1,3,4-thiadiazol-2-yl)semicarbazone (0.6 g, 47%) as a pale yellow oil.

reactant | Sodium hydride | 0.12 g | [H-].[Na+]
reactant | acetaldehyde 5-t-butyl-1,3,4-thiadiazolyl hydrazone | 0.99 g | C(C)(C)(C)C1=NN=C(S1)NN=CC | C8H14N4S
reactant | 2-Methylaminocarbonyloxyimino-2-phenylacetonitrile | 1.01 g | CNC(=O)ON=C(C#N)C1=CC=CC=C1 | C10H9N3O2
reactant | water | 20 ml | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | acetaldehyde 4-methyl-2-(5-t-butyl-1,3,4-thiadiazol-2-yl)semicarbazone | 0.6 g, 47% | CNC(N(N=CC)C=1SC(=NN1)C(C)(C)C)=O | C10H17N5OS
